US06573270B1
4-(tert-butyl)-N-{3-(2-hydroxyethoxy)-1-methyl-4-[4-(trifluoromethyl)phenyl]-1H-pyrazol-5-yl}-N-[(2-methoxyethoxy)methyl]benzenesulfonamide
To 2-({5-{{[4-(tert-butyl)phenyl]sulfonyl}[(2-methoxyethoxy)methyl]amino}-1-methyl-4-[4-(trifluoromethyl)phenyl]-1H-pyrazol-3-yl}oxy)ethyl acetate (Preparation 13) (200 mg) in methanol (20 ml) was added a solution of potassium carbonate (90 mg) in water (5 ml), at room temperature. The reaction mixture was stirred at room temperature for 1.5 hours. The reaction mixture was stripped down and the residue partitioned between ethyl acetate (15 ml) and water (15 ml). The aqueous layer was extracted with ethyl acetate (2×15 ml). The combined organics were back-washed with brine (15 ml). The solution was dried over magnesium sulfate, filtered and concentrated under reduced pressure to yield the desired product as an off white solid (170 mg).

reactant | 2-({5-{{[4-(tert-butyl)phenyl]sulfonyl}[(2-methoxyethoxy)methyl]amino}-1-methyl-4-[4-(trifluoromethyl)phenyl]-1H-pyrazol-3-yl}oxy)ethyl acetate | 200 mg | C(C)(=O)OCCOC1=NN(C(=C1C1=CC=C(C=C1)C(F)(F)F)N(COCCOC)S(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)C | C29H36F3N3O7S
reactant | potassium carbonate | 90 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 20 ml | CO | CH4O
solvent | water | 5 ml | O | H2O
product | 4-(tert-butyl)-N-{3-(2-hydroxyethoxy)-1-methyl-4-[4-(trifluoromethyl)phenyl]-1H-pyrazol-5-yl}-N-[(2-methoxyethoxy)methyl]benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(COCCOC)C1=C(C(=NN1C)OCCO)C1=CC=C(C=C1)C(F)(F)F | C27H34F3N3O6S
